US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethyl]-1H-indole (Example 43).
Under a nitrogen atmosphere 3-{2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl}propanoic acid (0.286 g, 0.832 mmol) was dissolved in 6 ml of dry tetrahydrofuran. To this solution 1,1′-carbonyldiimidazole (0.141 g, 0.874 mmol) was added and the resulting mixture was stirred at room temperature for about two hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was then heated to 65° C. and maintained at this temperature for about 35 minutes. To this reaction mixture dimethylaminopiperidine (0.112 g, 0.874 mmol), dissolved in about 3.6 ml of tetrahydrofuran. This mixture was stirred at room temperature overnight.

reactant | 3-{2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indol-3-yl}propanoic acid | 0.832 mmol, 0.286 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)O)C)C=C1 | C19H18ClNO3
reactant | 1,1′-carbonyldiimidazole | 0.874 mmol, 0.141 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopiperidine | 0.874 mmol, 0.112 g | CN(C)N1CCCCC1 | C7H16N2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 3.6 ml | O1CCCC1 | C4H8O
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[2-[[4-(dimethylamino)piperidin-1-yl]carbonyl]ethyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2CCC(=O)N2CCC(CC2)N(C)C)C)C=C1 | C26H32ClN3O2
